US08278442B2
Preparation 68: 7-Methoxybenzo[b]thiophene-4-carbaldehyde
Phosphorous oxychloride (0.518 g, 17.7 mmol) was added to DMF (1.04 mL) under argon at rt. After 30 min 7-methoxybenzothiophene (0.5 g, 3.04 mmol) was added and the reaction was heated to 100° C. for 3.5 h. The reaction was cooled to rt and poured into a saturated Na2CO3 solution, extracted with ether (100 mL) and the organic phase dried (MgSO4). Solvent was removed in vacuo to give the title compound: RT=3.34 min; m/z (ES+)=193.2 [M+H]+.

reactant | Phosphorous oxychloride | 17.7 mmol, 0.518 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-methoxybenzothiophene | 3.04 mmol, 0.5 g | COC1=CC=CC=2C=CSC21 | C9H8OS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.04 mL | CN(C)C=O | C3H7NO
product | 7-Methoxybenzo[b]thiophene-4-carbaldehyde | COC1=CC=C(C2=C1SC=C2)C=O | C10H8O2S
